US08124768B2
(3-(4-(2-Amino-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl dihydrogen phosphate
To a solution of N-(4-(3-chloro-2-(diphenylmethyleneamino)pyridin-4-yloxy)-3-fluorophenyl)-5-(4-fluorophenyl)-4-oxo-1,4-dihydropyridine-3-carboxamide (5.0 g, 7.90 mmol) in DMF (50 mL) at room temperature were added potassium carbonate (7.64 g, 55.3 mmol) and di-tert-butyl chloromethyl phosphate (9.19 g, 35.5 mmol, see: PCT WO 2005/090367). The reaction mixture was stirred at room temperature for 2 days. The mixture was then diluted with EtOAc (250 mL), washed with water (200 mL), aq 10% LiCl (3×250 mL), dried over Na2SO4, and filtered. The filtrate was concentrated to give a residue, which was dissolved in EtOH (160 mL). To this stirred solution, was added water (60 mL), followed by the slow addition of conc. HCl (40 mL). The resulting mixture was stirred at rt for 15 min, and then allowed to stand overnight. HPLC analysis indicated that the reaction was complete. The solid was collected by filtration, rinsed with 50% EtOH/H2O (5×), water, EtOH, and EtOAc. The solid was dried under vacuum to give the title compound (4.3 g, 93%) as a white solid. 1H NMR (TFA-d) δ 9.60 (s, 1H), 8.79 (s, 1 H), 7.80-7.90 (m, 2H), 7.65-7.75 (m, 2H), 7.57 (d, 1H, J=7.04 Hz), 7.45 (t, 1H, J=6.80 Hz), 7.25-7.33 (m, 2H), 6.50 (d, 1H, J=5.92 Hz), 6.39 (d, 2H, J=9.88 Hz); MS (ESI+) m/z 579 (M+H)+.

reactant | N-(4-(3-chloro-2-(diphenylmethyleneamino)pyridin-4-yloxy)-3-fluorophenyl)-5-(4-fluorophenyl)-4-oxo-1,4-dihydropyridine-3-carboxamide | 7.90 mmol, 5.0 g | ClC=1C(=NC=CC1OC1=C(C=C(C=C1)NC(=O)C1=CNC=C(C1=O)C1=CC=C(C=C1)F)F)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C36H23ClF2N4O3
reactant | potassium carbonate | 55.3 mmol, 7.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl chloromethyl phosphate | 35.5 mmol, 9.19 g | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCl | C9H20ClO4P
reactant | HCl | 40 mL | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 160 mL | CCO | C2H6O
solvent | water | 60 mL | O | H2O
product | (3-(4-(2-Amino-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl dihydrogen phosphate | 4.3 g, 93% | P(=O)(OCN1C=C(C(C(=C1)C1=CC=C(C=C1)F)=O)C(NC1=CC(=C(C=C1)OC1=C(C(=NC=C1)N)Cl)F)=O)(O)O | C24H18ClF2N4O7P
